US06506901B2
4-(2-Hydroxy-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propoxy)-fluoren-9-one
Prepared from 4-[(2S)-oxiranylmethoxy]-9-fluorenone (0.087 g, 0.34 mmol) and 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine (0.126 g, 0.6 mmol) of according to the procedure used for Example 2 to give 0.092 g of the title compound as a yellow solid.

reactant | 4-[(2S)-oxiranylmethoxy]-9-fluorenone | 0.34 mmol, 0.087 g | O1[C@@H](C1)COC1=CC=CC=2C(C3=CC=CC=C3C12)=O | C16H12O3
reactant | 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine | 0.6 mmol, 0.126 g | NCC1CCN(CC1)CCC(F)(F)F | C9H17F3N2
product | 4-(2-Hydroxy-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propoxy)-fluoren-9-one | 0.092 g | OC(COC1=CC=CC=2C(C3=CC=CC=C3C12)=O)CNCC1CCN(CC1)CCC(F)(F)F | C25H29F3N2O3
